US09216980B2
Method 2: Step 1: 6′-Chloro-2-fluoro-5-(4-piperidin-1-ylmethyl-phenyl)-[3,4′]bipyridinyl-3′-ylamine
A degassed mixture of 5-bromo-6′-chloro-2-fluoro-[3,4′]bipyridinyl-3′-ylamine (1.35 g, 4.46 mmol), 4-(piperidin-1-ylmethyl)phenylboronic acid hydrobromide (2.28 g, 7.59 mmol) and bis(triphenylphosphine)palladium(II) chloride (0.29 g, 0.35 mmol) in acetonitrile (70 mL) and 1N aqueous potassium fluoride solution (12 mL) was heated under microwave irradiation at 100° C. for 30 minutes. The cooled reaction was diluted with water (100 mL) and extracted with DCM (3×50 mL). The combined organic layer was dried over sodium sulfate, filtered, and evaporated to afford a residue which was purified by flash chromotagraphy (silica, 25 g column, Biotage, 0-10% methanol in (DCM containing 1% 2M ammonia in methanol)) to afford the title compound as a yellow/orange solid (0.95 g, 54%).

reactant | 5-bromo-6′-chloro-2-fluoro-[3,4′]bipyridinyl-3′-ylamine | 4.46 mmol, 1.35 g | BrC=1C=C(C(=NC1)F)C1=C(C=NC(=C1)Cl)N | C10H6BrClFN3
reactant | 4-(piperidin-1-ylmethyl)phenylboronic acid hydrobromide | 7.59 mmol, 2.28 g | Br.N1(CCCCC1)CC1=CC=C(C=C1)B(O)O
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
solvent | potassium fluoride | 1N, 12 mL | [F-].[K+]
solvent | water | 100 mL | O | H2O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.35 mmol, 0.29 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6′-Chloro-2-fluoro-5-(4-piperidin-1-ylmethyl-phenyl)-[3,4′]bipyridinyl-3′-ylamine | 0.95 g, 54% | ClC1=CC(=C(C=N1)N)C=1C(=NC=C(C1)C1=CC=C(C=C1)CN1CCCCC1)F | C22H22ClFN4
